US08486996B2
3-Amino-5-chloro-2-(2-hydroxy-5-methoxybenzoyl)-benzofuran
A solution of 3-amino-5-chloro-2-(2,5-dimethoxybenzoyl)-benzofuran (0.83 g, 2.5 mmol), sodium thiomethoxide (0.44 g, 6.25 mmol) and lithium bromide (0.22 g, 2.5 mmol) in anhydrous DMF (30 ml) is heated at 80° C. for 72 h. The solvent is removed under high vacuum and the residue is dissolved in a mixture of aqueous ammonium chloride and ethyl acetate. The organic phase is washed with brine, dried and evaporated under reduced pressure. Purification of the product on silicagel yields the title compound of m.p. 202-205° C. 1H-NMR (d6-DMSO, 300 MHz): 11.81 (s, 1H); 8.21-8.20 (m, 1H); 7.82-7.80 (m, 1H); 7.66-7.63 (m, 3H); 7.11 (dd, 1H); 6.87 (d, 2H); 3.79 (s, 3H).

reactant | 3-amino-5-chloro-2-(2,5-dimethoxybenzoyl)-benzofuran | 2.5 mmol, 0.83 g | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC(=C2)OC)OC)=O | C17H14ClNO4
reactant | sodium thiomethoxide | 6.25 mmol, 0.44 g | C[S-].[Na+]
reactant | lithium bromide | 2.5 mmol, 0.22 g | [Br-].[Li+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Amino-5-chloro-2-(2-hydroxy-5-methoxybenzoyl)-benzofuran | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC(=C2)OC)O)=O | C16H12ClNO4
